US05708008
2-methyl-5-amino-1H-indole
To a solution of 2.0 gm (11.4 mMol) 2-methyl-5-nitro-1H-indole in 100 mL 1:1 ethanol:tetrahydrofuran were added 0.25 gm 5% palladium on carbon. The suspension was hydrogenated at ambient temperature at an initial hydrogen pressure of 60 p.s.i. After 5 hours the reaction mixture was filtered and the filtrate concentrated under reduced pressure to give 1.5 gm of a dark brown solid. The solid was purified by flash chromatography, eluting with a gradient of dichloromethane containing 0-3% methanol, to give 1.19 gm (71.7%) of the title compound as light brown plates.

reactant | 2-methyl-5-nitro-1H-indole | 11.4 mMol, 2.0 gm | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.25 gm | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-5-amino-1H-indole | 1.5 gm | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
